US06509334B1
3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)phenylacetonitrile
Prepared according to the procedure B from 3-bromophenylacetonitrile and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl) boronic acid. White solid: mp 188-190° C. 1H-NMR (DMSO-d6) δ10.33(s, 1H), 7.62(m, 2H), 7.55 (m, 2H), 7.48 (d, 1H J=8.00 Hz), 7.33 (d, 1H, J=7.57 Hz), 6.99 (d,1H, J=8.81 Hz) 4.09 (s, 2H), 1.67 (s, 6H); MS m/z 291(M−H). Anal. Calc. for (C18H16N2O2)2. 0.3 H2O: C,72.61, H, 5.62, N, 9.41. Found: C, 73.00, H,5.43, N, 8.81

reactant | 3-bromophenylacetonitrile | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl) boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
solvent | H2O | O | H2O
product | 3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]-oxazin-6-yl)phenylacetonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C=CC2)CC#N)C | C18H16N2O2
